US07642264B2
2-(4-Bromo-2-methyl-imidazol-1-yl)-4-methyl-6-(4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 2-chloro-4-methyl-6-(4-trifluoromethyl-phenyl)pyrimidine (example A.12) (0.4 g, 1.47 mmol) and commercially available 4-bromo-2-methylimidazole (0.35 g, 2.17 mmol) according to the general procedure IVa. Obtained as a light brown solid (0.41 g, 70%). MS (ISP) 399.0 [(M+H)+]; mp 180° C.

reactant | 2-chloro-4-methyl-6-(4-trifluoromethyl-phenyl)pyrimidine | 1.47 mmol, 0.4 g | ClC1=NC(=CC(=N1)C)C1=CC=C(C=C1)C(F)(F)F | C12H8ClF3N2
reactant | 4-bromo-2-methylimidazole | 2.17 mmol, 0.35 g | BrC=1N=C(NC1)C | C4H5BrN2
product | 2-(4-Bromo-2-methyl-imidazol-1-yl)-4-methyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | BrC=1N=C(N(C1)C1=NC(=CC(=N1)C)C1=CC=C(C=C1)C(F)(F)F)C | C16H12BrF3N4
